US07560569B2
4-Benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid (998 mg) was suspended in acetonitrile (20 mL). While the suspension was chilled in an ice bath, N-hydroxybenzotriazole (605 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (757 mg) were sequentially added. The mixture was stirred at room temperature for 4 hours and was left overnight. Subsequently, 25% aqueous ammonia (1.80 mL) was added while the reaction vessel was chilled in an ice bath. The mixture was then stirred at room temperature for 1 hour. The insoluble material was filtered and washed sequentially with acetonitrile and dichloromethane. The filtrate and the washings were combined and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (eluant:ethyl acetate) to give 4-benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxamide (889 mg).

reactant | 4-Benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid | 998 mg | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)O | C17H21NO4
reactant | N-hydroxybenzotriazole | 605 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 757 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | 1.80 mL | N | H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxamide | 889 mg | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)N | C17H22N2O3
